US06066639
Following the procedure of Example 1, dimethyl N-(2-iodo-1-triphenylmethylimidazol-4-ylcarbonyl)-L-glutamate (638 mg, 1.0 mmol), 2-pivaloylamino4-hydroxy-6-ethynylpyrido[2,3-d]pyrimidine (541 mg, 2.0 mmol), Pd(PPh)2Cl2 (35 mg, 0.05 mmol), cuprous iodide (19 mg, 0.1 mmol), triethylamine (0.7 mL), and acetonitrile (50 mL) yield dimethyl N-(2-[2-(2-pivaloylamino-4-hydroxypyrido[2,3-d]pyrimidin-6-yl)ethynyl]-1-triphenylmethylimidazol-4-ylcarbonyl}-L-glutamate [515 mg, 66% after flash column chromatography (ethyl acetate:hexanes, 2:1), mp 93-95° C]: 1H NMR (CDCl3) δ 12.05 (br s, 1H), 8.43 (br s, 1H), 8.26 (s, 1H), 7.93 (d, 1H, J=2.2 Hz), 7.61 (s, 1H), 7.54 (d, 1H, J=7.6 Hz), 7.33-7.28 (m, 9H), 7.18-7.12 (m, 6H), 4.77 (m, 1H), 3.74 (s, 3H), 3.65 (s, 3H), 2.45 (m, 2H), 2.32 (m, 1H), 2.05 (m, 1H), 1.30 (s, 9H). HRMS calcd for C44H41N7O7 779.3067, found 779.3088.

reactant | dimethyl N-(2-iodo-1-triphenylmethylimidazol-4-ylcarbonyl)-L-glutamate | 1.0 mmol, 638 mg | IC=1N(C=C(N1)C(=O)N[C@@H](CCC(=O)OC)C(=O)OC)C(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1 | C30H28IN3O5
reactant | 2-pivaloylamino4-hydroxy-6-ethynylpyrido[2,3-d]pyrimidine | 2.0 mmol, 541 mg | C(C(C)(C)C)(=O)NC=1N=C(C2=C(N1)N=CC(=C2)C#C)O | C14H14N4O2
reactant | triethylamine | 0.7 mL | C(C)N(CC)CC | C6H15N
solvent | acetonitrile | 50 mL | C(C)#N | C2H3N
product | dimethyl N-(2-[2-(2-pivaloylamino-4-hydroxypyrido[2,3-d]pyrimidin-6-yl)ethynyl]-1-triphenylmethylimidazol-4-ylcarbonyl}-L-glutamate | 515 mg, 66% | C(C(C)(C)C)(=O)NC=1N=C(C2=C(N1)N=CC(=C2)C#CC=2N(C=C(N2)C(=O)N[C@@H](CCC(=O)OC)C(=O)OC)C(C2=CC=CC=C2)(C2=CC=CC=C2)C2=CC=CC=C2)O | C44H41N7O7
